US05514711
1, 4-Difluoro-2-methoxy-3-hydroxybenzene (1.60 g, 9.99 mmol) was converted into 2, 5-difluoro-2-methoxy-3-hydroxybenzene (610 mg, 33%) according to the method as described in L. Kirk et al., J. Org. Chem., 51, 4073 (1986). This compound (350 mg, 1.86 mmol) was allowed to react with 1M solution of boron tribromide in methylene chloride in the same manner as in Example 2. The crude product obtained above was dissolved in methylene chloride (2 ml), and diisopropylethylamine (0.4 ml, 2.3 mmol) and methoxymethyl chloride (0.45 ml, 6.0 mmol) were added to the solution, which was stirred at room temperature for 1 hour. The reaction mixture was mixed with water, extracted with ethyl acetate-hexane and the extract was concentrated in vacuo. The residue was chromatographed on a column of silica gel to give 2, 5-difluoro-3, 4-bis (methoxymethyloxy) benzaldehyde (200 mg, 41%).

reactant | 1, 4-Difluoro-2-methoxy-3-hydroxybenzene | 9.99 mmol, 1.60 g | FC1=C(C(=C(C=C1)F)O)OC | C7H6F2O2
reactant | 2, 5-difluoro-2-methoxy-3-hydroxybenzene | 610 mg | FC1(CC=C(C=C1O)F)OC | C7H8F2O2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | diisopropylethylamine | 2.3 mmol, 0.4 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methoxymethyl chloride | 6.0 mmol, 0.45 ml | COCCl | C2H5ClO
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 2, 5-difluoro-3, 4-bis (methoxymethyloxy) benzaldehyde | 200 mg, 41% | FC1=C(C=O)C=C(C(=C1OCOC)OCOC)F | C11H12F2O5
